US07384963B2
N-Ethyl-N′-(3-nitrobenzyl)urea 3-Nitrobenzylamine hydrochloride (754 mg, 4.0 mmol) and triethylamine (404 mg, 4 mmol) were stirred in THF (10 ml) for 15 min in an ice bath. Ethylisocyanate (335 μl, 4.23 mmol) was added dropwise to the solution and the reaction allowed to stand at room temperature for 2 h after addition was complete. The reaction was partitioned between ethyl acetate (30 ml) and water (30 ml). The organic phase was washed with water, brine and dried (sodium sulphate). The solvent was evaporated under vacuum to give N-ethyl-N′-(3-nitrobenzyl)urea (880 mg). Rf; DCM/methanol (10:1) 0.40.

reactant | N-Ethyl-N′-(3-nitrobenzyl)urea 3-Nitrobenzylamine hydrochloride | 4.0 mmol, 754 mg | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1.C(C)NC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-]
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
reactant | Ethylisocyanate | 4.23 mmol, 335 μl | C(C)N=C=O | C3H5NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-ethyl-N′-(3-nitrobenzyl)urea | 880 mg | C(C)NC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C10H13N3O3
